US07238707B2
4-Methyl-4-phenyl-2-oxopentanoic Acid-ethyl Ester
10.0 g of 2-phenyl-2-propanol and 30.4 g of 2-(trimethylsilyloxy)acrylic acid-ethyl ester (Bull. Chem. Soc. Jpn. 1992, 65, 3209) are introduced into 386 ml of CH2Cl2 and treated at −70° C. with 11.5 ml of tin tetrachloride. After 15 minutes at −70° C., the batch is introduced into semiconcentrated potassium carbonate solution, extracted with CH2Cl2, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with ethyl acetate-cyclohexane yields 4.64 g of the product as a colorless oil.

reactant | 2-phenyl-2-propanol | 10.0 g | C1(=CC=CC=C1)C(C)(C)O | C9H12O
reactant | 2-(trimethylsilyloxy)acrylic acid-ethyl ester | 30.4 g | C(C)OC(C(=C)O[Si](C)(C)C)=O | C8H16O3Si
reactant | tin tetrachloride | 11.5 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | CH2Cl2 | 386 ml | C(Cl)Cl | CH2Cl2
product | 4-Methyl-4-phenyl-2-oxopentanoic Acid-ethyl Ester | 4.64 g | C(C)OC(C(CC(C)(C1=CC=CC=C1)C)=O)=O | C14H18O3
